US07863310B2
(5-Chloro-2-nitrophenyl)-(1-(R)-methyl-2,2-dimethylpropyl)amine
Add 2-(R)-amino-3,3-dimethylbutane (20 mL, 0.148 mol), potassium carbonate (14.3 g, 0.104 mol) and water (50 mL) to a solution of 4-chloro-2-fluoronitrobenzene (13.3 g, 0.076 mol) in THF (450 mL) and stir at 75° C. for 3 h Cool to ambient temperature. Concentrate to ½ volume, dilute with ethyl acetate and wash with 1N HCl (4×100 mL), water, saturated sodium bicarbonate, saturated sodium chloride, dry with magnesium sulfate and concentrate to give the title compound as an orange solid (19.6 g, quant).

reactant | 2-(R)-amino-3,3-dimethylbutane | 0.148 mol, 20 mL | N[C@H](C)C(C)(C)C | C6H15N
reactant | potassium carbonate | 0.104 mol, 14.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
reactant | 4-chloro-2-fluoronitrobenzene | 0.076 mol, 13.3 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | (5-Chloro-2-nitrophenyl)-(1-(R)-methyl-2,2-dimethylpropyl)amine | 19.6 g | ClC=1C=CC(=C(C1)N[C@@H](C(C)(C)C)C)[N+](=O)[O-] | C12H17ClN2O2
